2190-12-30 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76M with HTN, DM, HL, but no known CAD, presented to OSH w/ PNA and
   ARF, now transferred to [**Hospital1 5**] CCU w/ STEMI. S/p BMS x2 to mid-LAD 90%
   stenosis.
   24 Hour Events:
   The patient had a new A-line and left subclavian central line placed
   and his old lines pulled.  Cath tip was sent for Cx.  He was started on
   lopressor 12.5 mg tid and lipitor 80 mg daily.  He was started on
   atrovent (xopeniex can't be given to patients on a vent).  He received
   a dose of 20 mg IV lasix in the cath lab yesterday am and another dose
   of 20 mg IV yesterday evening.  He remained on the ventilator on AC
   setting.  Did not start an acei given his recent ARF and the dye load
   he received at cath.   His CE continued to climb from CK 262 --> 511
   --> 714  and CK-MB of 19 -->50-->80 and MB index of 7.3 --> 9.8
   -->11.2.  Last night the radiologist from the OSH called and reported
   that the head CT he had there showed no bleed, but that the left
   maxillary sinus was completely opacified with thickening of the walls
   and soft tissue expanding into the cavity with a hyperdensity at the
   anterior aspect of the soft tissue.  The patient was weaned off the
   nitro gtt as his pressures decreased overnight.
   This am the patient remains intubated and sedated.  His RR was
   increased from 12 to 16 given CO2 retention and acidosis on ABG.
   Allergies:
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-12-29**] 12:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Nitroglycerin - 0.3 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-29**] 02:00 PM
   Furosemide (Lasix) - [**2190-12-29**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-30**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 75 (70 - 101) bpm
   BP: 119/50(72) {83/44(63) - 164/97(267)} mmHg
   RR: 16 (6 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 15 (7 - 33)mmHg
   PAP: (38 mmHg) / (15 mmHg)
   CO/CI (Fick): (8.5 L/min) / (4 L/min/m2)
   SvO2: 72%
   Mixed Venous O2% Sat: 72 - 79
   SVR 461 (461-624)
   Total In:
                                                                  1,306 mL
                                                                    174 mL
   PO:
                                  TF:
   IVF:
                                                                  1,306 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    155 mL
   Urine:
                                                                  1,135 mL
                                                                    155 mL
   NG:
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                    116 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 624 (523 - 624) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.31/56/104/29/0
   Ve: 5.5 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Elderly man lying in bed, intubated and sedated.
   Eyes / Conjunctiva: Lt surgical pupil, right pupil small, but reactive
   to light.
   Head, Ears, Nose, Throat: Normocephalic, NC/AT, sclera anicteric.
   Cardiovascular: RRR, No MRG. JVP to his midjaw
   Respiratory / Chest:  Coarse breath sounds present b/l.
   Abdominal: +BS, soft ND.
   Extremities: No c/c/e.  2+DP
   Neurologic: Sedated and unresponsive to voice.  Withdraws from pain.
   Babinski equivocal.
   Labs / Radiology
   194 K/uL
   10.5 g/dL
   146 mg/dL
   1.4 mg/dL
   29 mEq/L
   5.2 mEq/L
   34 mg/dL
   106 mEq/L
   139 mEq/L
   30.0 %
   14.5 K/uL
        [image002.jpg]
                            [**2190-12-29**]  09:55 AM
                            [**2190-12-29**]  11:09 AM
                            [**2190-12-29**]  11:10 AM
                            [**2190-12-29**]  03:00 PM
                            [**2190-12-29**]  03:15 PM
                            [**2190-12-29**]  10:01 PM
                            [**2190-12-29**]  10:13 PM
                            [**2190-12-30**]  02:28 AM
                            [**2190-12-30**]  04:21 AM
                            [**2190-12-30**]  04:36 AM
   WBC
   11.7
   14.5
   Hct
   32.1
   31.2
   35
   30.0
   Plt
   [**Telephone/Fax (3) 3328**]94
   Cr
   1.2
   1.2
   1.3
   1.4
   TropT
   0.36
   0.64
   1.24
   TCO2
   27
   27
   26
   30
   28
   30
   Glucose
   188
   159
   146
   Other labs: PT / PTT / INR:15.2/69.4/1.3, CK / CKMB /
   Troponin-T:644/80/1.24, ALT / AST:27/47, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:84/, Differential-Neuts:87.8 %, Lymph:10.4 %, Mono:1.2
   %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76M with HTN, DM, HL, but no known CAD, presented to OSH w/ PNA and
   ARF, now transferred to [**Hospital1 5**] CCU w/ STEMI. S/p BMS x2 to mid-LAD 90%
   stenosis.
   #. Hypercarbic respiratory failure/Likely COPD
 The patient was found
   at the OSH to be hypoxic with a very elevated CO2 and was intubated.
   Has been intubated since then with some CO2 retention on the AC
   setting.  As his RISB this am was in the 20
s, it is likely that he
   will be able to tolerate being extubated today.   Patient does no have
   wheezing on exam today.
   -  Will change his vent to Pressure support [**5-17**] and recheck a RISB and
   ABG in a few hours.  If they look okay, can plan to extubated him later
   today.
   -  Patient no longer requires the pulmonary artery catheter.  Will
   remove this and his groin line today.
   -  Ipratropium q6h
   -  would like to give Xopenex, however this is not available for
   ventilated patients (holding albuterol given his recent STEMI)
   -  Abx as below for pneumonia
   #. CAD - Pt w/ STEMI, now s/p BMS x2 to mid-LAD 90% stenosis. Anatomy
   also w/ proximally occluded RCA w/ robust collaterals.  CKs peaked on
   [**12-29**] at 714.
   - Continue daily ASA and Plavix
   - Continue high-dose statin, lopressor 12.5 mg tid
   - Will get a TTE today to assess his heart function
   - consider starting ACE-I once his ARF resolves if his EF is depressed
   on echo
   - Insulin as below for tight blood sugar control
   #  Hemodynamics/Leukocytosis
 The patient was initially on pressors
   for hypotension, but then was switched to a nitro gtt to control
   hypertension.  His SBP has been trending downward and he is now off the
   nitro gtt with SBPs in the 110s.  His SVR has been calculated to be 461
   (down from 624) which is concerning for possible sepsis.  He has
   remained afebrile, however his WBC has risen to 14.5 this am (from 10.5
 11.7).  His differential is left-shifted with 86.4%N.
   - F/U BCx, cath tip Cx, UA, UCx, sputum Cx
   - If he becomes hypotensive or spikes a fever, consider broadening his
   antibiotic coverage with vanc and zosyn.
   - Hold off further diuresis with lasix.
   #. Pneumonia - Pt w/ RLL pneumonia at OSH, started on Levoflox (day 1
   [**12-27**]).  CXR this am looks unchanged with no new infiltrates or pleural
   effusions.
   - Cont Levofloxacin 750mg x5d
   #. Acute renal failure - Creatinine on arrival to OSH was elevated to
   1.5.  Here he improved to 1.2, however he had received dye at the cath
   lab yesterday and this am his Cr is increased to 1.4.  Unknown
   baseline.  His UOP also has been decreasing.  Given his possible sepsis
   he could have prerenal ARF (it is early for CIN, however this could be
   an expected cause of the next couple of days).  FEurea was 26.3% which
   suggests a prerenal etiology.
   - Continue to trend Cr and avoid nephrotoxins.
   #. Diabetes - On PO Metformin at home, was on insulin gtt at OSH ICU.
   - Holding home Metformin
   - Lantus 10 units with SSI coverage for tight blood sugar control
   #. ?Right eye gaze & RUE weakness
 Had a noncontrast Head CT at OSH
   prior to transfer.  Spoke with the radiologist who stated that the head
   CT showed no evidence for bleed.  Will defer further imaging until the
   patient is off sedation and his neurologic status can be assessed by
   exam.
   #. Depression - Continue home Celexa.
   ICU Care
   Nutrition:
   Comments: NPO, NS at 50cc/hr while NPO, replete lytes PRN
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PA Catheter - [**2190-12-29**] 09:00 AM
   18 Gauge - [**2190-12-29**] 09:00 AM
   Arterial Line - [**2190-12-29**] 02:00 PM
   Multi Lumen - [**2190-12-29**] 03:22 PM
   Comments: Will remove the PA catheter today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds ,ICU
   Comments:
   Code status: Full code
   Disposition: ICU

2190-12-31 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2190-12-30**] 09:15 AM
   R groin line removed and tip sent for culture. Pt extubated
   successfully in the afternoon.  Was wheezy on exam but mostly upper
   airway, treated with nebs.  MS [**First Name (Titles) 3347**] [**Last Name (Titles) 3348**] but PCO2 okay.
   Sputum shows 4+ GPCs on gram stain.  Had elevated blood pressures in
   the 180s in the afternoon.  Got Labetolol 20mg IV, then Hydralazine
   10mg IV X 1, then nitro gtt.  BPs trended down to 150s-160s on nitro.
   At 1am was more tachycardic with HR in the 100s, got Metoprolol 12.5mg
   PO X 1 and improved both HR and BP.
   Nurse noted at midnight that pt had a R facial droop after taking off
   face mask.  Speech garbled but coherent.  Neuro exam - pupils equal and
   reactive, tongue midline, R facial droop with asymmetry of forehead.
   Diffuse muscle weakness upper and lower extremities, strong hand grasp
   and equal on both sides. Hyperactive reflexes with clonus of lower
   extremities bl.  Upgoing Babinskis.  No focal deficits.  ABG checked
   for concerns for hypercarbia and was 7.44/40/73/28.
   Allergies:
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-12-30**] 12:00 PM
   Infusions:
   Nitroglycerin - 1.14 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-30**] 08:00 AM
   Labetalol - [**2190-12-30**] 06:00 PM
   Hydralazine - [**2190-12-30**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-31**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-31**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 87 (61 - 105) bpm
   BP: 122/56(74) {110/46(65) - 187/76(112)} mmHg
   RR: 21 (8 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (8 - 21)mmHg
   PAP: (39 mmHg) / (15 mmHg)
   Total In:
                                                                    827 mL
                                                                    255 mL
   PO:
   TF:
   IVF:
                                                                    767 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  1,007 mL
                                                                    440 mL
   Urine:
                                                                  1,007 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 913 (913 - 913) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: 7.42/44/78.[**Numeric Identifier 7**]/28/3
   Ve: 7.6 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Elderly man lying in bed, intubated and sedated.
   Eyes / Conjunctiva: Lt surgical pupil, right pupil small, but reactive
   to light.
   Head, Ears, Nose, Throat: Normocephalic, NC/AT, sclera anicteric.
   Cardiovascular: RRR, No MRG. JVP to his midjaw
   Respiratory / Chest:  Coarse breath sounds present b/l.
   Abdominal: +BS, soft ND.
   Extremities: No c/c/e.  2+DP
   Neurologic: Sedated and unresponsive to voice.  Withdraws from pain.
   Babinski equivocal.
   Labs / Radiology
   179 K/uL
   9.5 g/dL
   128 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.2 mEq/L
   30 mg/dL
   106 mEq/L
   139 mEq/L
   27.3 %
   9.4 K/uL
        [image002.jpg]
                            [**2190-12-30**]  04:36 AM
                            [**2190-12-30**]  06:19 AM
                            [**2190-12-30**]  11:23 AM
                            [**2190-12-30**]  02:01 PM
                            [**2190-12-30**]  03:12 PM
                            [**2190-12-30**]  04:34 PM
                            [**2190-12-30**]  08:51 PM
                            [**2190-12-31**]  12:44 AM
                            [**2190-12-31**]  04:02 AM
                            [**2190-12-31**]  04:16 AM
   WBC
   9.4
   Hct
   27.3
   Plt
   179
   Cr
   1.1
   TCO2
   30
   30
   27
   29
   28
   28
   28
   28
   30
   Glucose
   128
   Other labs: PT / PTT / INR:13.6/24.5/1.2, CK / CKMB /
   Troponin-T:644/71/2.02, ALT / AST:27/47, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:84/, Differential-Neuts:76.5 %, Lymph:18.4 %, Mono:4.7
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   76M with HTN, DM, HL, but no known CAD, presented to OSH w/ PNA and
   ARF, now transferred to [**Hospital1 5**] CCU w/ STEMI. S/p BMS x2 to mid-LAD 90%
   stenosis.
   #. Hypercarbic respiratory failure/Likely COPD
 The patient was found
   at the OSH to be hypoxic with a very elevated CO2 and was intubated.
   Has been intubated since then with some CO2 retention on the AC
   setting.  As his RISB this am was in the 20
s, it is likely that he
   will be able to tolerate being extubated today.   Patient does no have
   wheezing on exam today.
   -  Will change his vent to Pressure support [**5-17**] and recheck a RISB and
   ABG in a few hours.  If they look okay, can plan to extubated him later
   today.
   -  Patient no longer requires the pulmonary artery catheter.  Will
   remove this and his groin line today.
   -  Ipratropium q6h
   -  would like to give Xopenex, however this is not available for
   ventilated patients (holding albuterol given his recent STEMI)
   -  Abx as below for pneumonia
   #. CAD - Pt w/ STEMI, now s/p BMS x2 to mid-LAD 90% stenosis. Anatomy
   also w/ proximally occluded RCA w/ robust collaterals.  CKs peaked on
   [**12-29**] at 714.
   - Continue daily ASA and Plavix
   - Continue high-dose statin, lopressor 12.5 mg tid
   - Will get a TTE today to assess his heart function
   - consider starting ACE-I once his ARF resolves if his EF is depressed
   on echo
   - Insulin as below for tight blood sugar control
   #  Hemodynamics/Leukocytosis
 The patient was initially on pressors
   for hypotension, but then was switched to a nitro gtt to control
   hypertension.  His SBP has been trending downward and he is now off the
   nitro gtt with SBPs in the 110s.  His SVR has been calculated to be 461
   (down from 624) which is concerning for possible sepsis.  He has
   remained afebrile, however his WBC has risen to 14.5 this am (from 10.5
 11.7).  His differential is left-shifted with 86.4%N.
   - F/U BCx, cath tip Cx, UA, UCx, sputum Cx
   - If he becomes hypotensive or spikes a fever, consider broadening his
   antibiotic coverage with vanc and zosyn.
   - Hold off further diuresis with lasix.
   #. Pneumonia - Pt w/ RLL pneumonia at OSH, started on Levoflox (day 1
   [**12-27**]).  CXR this am looks unchanged with no new infiltrates or pleural
   effusions.
   - Cont Levofloxacin 750mg x5d
   #. Acute renal failure - Creatinine on arrival to OSH was elevated to
   1.5.  Here he improved to 1.2, however he had received dye at the cath
   lab yesterday and this am his Cr is increased to 1.4.  Unknown
   baseline.  His UOP also has been decreasing.  Given his possible sepsis
   he could have prerenal ARF (it is early for CIN, however this could be
   an expected cause of the next couple of days).  FEurea was 26.3% which
   suggests a prerenal etiology.
   - Continue to trend Cr and avoid nephrotoxins.
   #. Diabetes - On PO Metformin at home, was on insulin gtt at OSH ICU.
   - Holding home Metformin
   - Lantus 10 units with SSI coverage for tight blood sugar control
   #. ?Right eye gaze & RUE weakness
 Had a noncontrast Head CT at OSH
   prior to transfer.  Spoke with the radiologist who stated that the head
   CT showed no evidence for bleed.  Will defer further imaging until the
   patient is off sedation and his neurologic status can be assessed by
   exam.
   #. Depression - Continue home Celexa.
   ICU Care
   Nutrition:
   Comments: NPO, NS at 50cc/hr while NPO, replete lytes PRN
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PA Catheter - [**2190-12-29**] 09:00 AM
   18 Gauge - [**2190-12-29**] 09:00 AM
   Arterial Line - [**2190-12-29**] 02:00 PM
   Multi Lumen - [**2190-12-29**] 03:22 PM
   Comments: Will remove the PA catheter today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds ,ICU
   Comments:
   Code status: Full code
   Disposition: ICU

2191-01-01 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient's ACE uptightrated to SBP of < 120.  Pt. received 40mg IV of
   lasix, and diuresed ~ 1.5L up to MN.  Echo showed LVEF 55%, no apical
   akinesis, mild symmetric LVH, Mild PAH.   Given continued wheezing, pt
   started on Prednisone 60mg PO and standing Xopenex.   O/n Sputum Cx
   noted w/ ASPERGILLUS SPECIES, rare growth. Significance of this is
   unclear.  Pt not on LT steroids.  Given recent AMI and concern for
   thrombus, pt was started on heparin gtt w/ transition to coumadin.
   Seen by speech and swallow, who recommended nectar thick, w/ pureed and
   crushed tabs.  Pt noted o/n to have L facial droop and on exam in AM w.
   LUE weakness, LLE weakness, w/ upgoing toes, thus concern regarding
   stroke.  Carotid U/S w/ 60-69% R ICA stenosis, 40-59% L ICA stensosis.
   Neuro consulted: ddx ICH, embolic stroke vs. TIA.  CTA of head/neck
   ordered, showing no ICH, no old CVA, b/l carotid stenosis. Goal SBP
   140-180 per neuro  Holding on Coumadin and heparin gtt for now.
   Allergies:
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-12-31**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-31**] 08:00 AM
   Coumadin (Warfarin) - [**2190-12-31**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-1**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 78 (67 - 94) bpm
   BP: 141/52(82) {116/41(63) - 185/73(109)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 3 (3 - 18)mmHg
   HR 60-70s
   SVT 6b, [**7-20**] NSVT
   Total In:
                                                                    727 mL
                                                                     58 mL
   PO:
                                                                    120 mL
                                 TF:
   IVF:
                                                                    607 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    480 mL
   Urine:
                                                                  2,295 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,568 mL
                                                                   -422 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 2L
   SpO2: 95%
   Physical Examination
   General Appearance: Elderly man lying in bed, lethargic
   Eyes / Conjunctiva: R and L pupils minimally reactive, asymmetric, b/l,
   EOMs intact.
   Head, Ears, Nose, Throat: Normocephalic, NC/AT, sclera anicteric.
   Cardiovascular: RRR, No MRG. JVP 8
   Respiratory / Chest:  Coarse breath sounds, wheezing and rhonchi b/l at
   6am, crackles at 8am.
   Abdominal: +BS, soft ND.
   Extremities: No c/c/e.  2+DP
   Neurologic:  A&O x3, attention intact.  EOMs see above.  VFs intact to
   threat b/l.  Faint L nasolabial fold flattening.  Facial sensation
   intact..  Tongue to midline, gag intact, SCM intact b/l.  Strength:
   Tone nl, nl bulk, not cooperative, antigravity in both UE and LE
   intact.  [**2-15**] b/l reflexes at biceps, 3+b/l at patella, upgoing toe on
   L, equivocal on R.  FTN intact.  5beats of  clonus on L.  Gait deferred
   Labs / Radiology
   177 K/uL
   10.5 g/dL
   136 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.5 mEq/L
   27 mg/dL
   104 mEq/L
   139 mEq/L
   28.9 %
   9.7 K/uL
        [image002.jpg]
                            [**2190-12-30**]  02:01 PM
                            [**2190-12-30**]  03:12 PM
                            [**2190-12-30**]  04:34 PM
                            [**2190-12-30**]  08:51 PM
                            [**2190-12-31**]  12:44 AM
                            [**2190-12-31**]  04:02 AM
                            [**2190-12-31**]  04:16 AM
                            [**2190-12-31**]  02:10 PM
                            [**2190-12-31**]  05:24 PM
                            [**2191-1-1**]  05:01 AM
   WBC
   9.4
   9.7
   Hct
   27.3
   28.9
   Plt
   179
   177
   Cr
   1.1
   1.1
   1.0
   TCO2
   29
   28
   28
   28
   28
   30
   32
   Glucose
   128
   159
   136
   Other labs: PT / PTT / INR:15.3/25.3/1.4, CK / CKMB /
   Troponin-T:644/71/2.02, ALT / AST:27/47, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:84/, Differential-Neuts:76.5 %, Lymph:18.4 %, Mono:4.7
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Micro:
   Sputum [**12-30**]:
GRAM STAIN (Final [**2190-12-30**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS, CHAINS, AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
         ASPERGILLUS SPECIES.    RARE GROWTH
   Assessment and Plan
   76M with HTN, DM, HL, but no known CAD, presented to OSH w/ PNA and
   ARF, now transferred to [**Hospital1 5**] CCU w/ STEMI. S/p BMS x2 to mid-LAD 90%
   stenosis, now extubated w/ leftsided hemiparesis.
   #. COPD exacerbation
 Pt. w/ wheezes and rhonchi on exam consistent
   w/  COPD exacerbation.  CXR w/ improving L effusion yesterday, now w/
   improving oxygen requirement, not hypercarbic on last abg.  Started on
   prednisone yesterday 60mg, but now w/ Aspergillus on Sputum.
   - Will d/c Prednisone given aspergillus
   - continue Xopenex standing Q6h and Ipratropium q6h
   - D/C levofloxacin given sputum results, pt. received 4d
   # Aspergillus infection
 on sptum, pt. also w/ sinus disease w.
   dehissence of medial sinus wall. Given DM and recent steroid course at
   OSH, pt is immuno suppressed given above.  Likely invasive
   aspergillosis, which can carry up to 50% mortality in ICU patients.
   Will likely treat, can consider voriconazole, but will await ID input
   re further workup/tx/
   -          Sinus aspiration Smear/Cx
   -          ID consult/ENT consult
   -          D/C prednisone
   # Left hemiparesis w/ facial droop, upgoing toes
 consistent w/
   possible CVA, especially in setting of persistent NLF deficit.  No
   sources for this on CTA.  Will require MRI.  Possibly MCA vs. lacunar
   at internal capsule, no ICH on CT.  Will allow to autoregulate BP w/
   goal of < 200 and > 120 Syst.
   -          Neuro checks, bed rest for now
   -          Appreciate Neuro recs
   -          Monitor BPs, will continue w/ ACE, and SBPs goals as above
   -          Lantus and ISS to maintain euglycemia
   #. CAD - Pt w/ STEMI, now s/p BMS x2 to mid-LAD 90% stenosis. Anatomy
   also w/ proximally occluded RCA w/ robust collaterals.  CKs peaked on
   [**12-29**] at 714, now 644.  Asymptomatic.  Held heparin gtt yesterday given
   concern for ICH.
   - Continue daily [**Last Name (LF) 119**], [**First Name3 (LF) 124**] decrease to 81mg and Plavix
   - Will start Captopril for BP control and AMI
   - Continue high-dose statin, lopressor 12.5 mg tid
    - Insulin as below for tight blood sugar control
   - Given AMI and per discussion w/ Dr. [**Last Name (STitle) 2830**], [**First Name3 (LF) 124**] start heparin
   drip with eventual transition to coumadin
   #  Hemodynamics.  Elevated BPs o/n.  Mildly overloaded on exam,
   crackles.  ECHO w/ LVEF > 55%, symmetric LVH suggestive of diastolic
   dysfunction, w/ PAH.
   - Will diurese w/ 40mg IV lasix again, goal -1L, will monitor BPs
   - Pt. on ACE and BBk
   #. Acute renal failure - Creatinine on arrival to OSH was elevated to
   1.5.  Improved to  1.0 Pt. received dye at the cath lab [**12-30**]  Unknown
   baseline.  UOP increasing, ATN likely given granular casts.  Will
   monitor for autodiuresis.
   -          Continue to trend Cr and avoid nephrotoxins.
   #. Diabetes - On PO Metformin at home, was on insulin gtt at OSH ICU.
   BG elevated on Glargine 12U and RISS
   - Holding home Metformin
   - Lantus increased to 15 units with Reg. SSI coverage for BG < 150.
   #. Depression - Continue home Celexa.
   ICU Care
   Nutrition:
   Glycemic Control:   Lantus, RISS
   Lines:  Will pull IJ and a line today.  Will also remove foley
   catheter.
   Arterial Line - [**2190-12-29**] 02:00 PM
   Multi Lumen - [**2190-12-29**] 03:22 PM
   20 Gauge - [**2190-12-31**] 07:45 PM
   Prophylaxis:
   DVT:  Heparin gtt,
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition:

2191-01-02 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76M with HTN, DM, HL, but no known CAD, presented to
   OSH w/ PNA and [**Hospital 3388**] transferred to [**Hospital1 5**] CCU w/ STEMI s/p BMS x2 to
   mid-LAD 90% stenosis now with ? of stroke/TIA, a sinus mass, and
   aspergillus in his sputum.
   24 Hour Events:
   The patient was restarted on a heparing gtt for a left ventricle
   thrombus and coumadin for long-term anticoagulation.  His foley,
   A-line, and central lines were removed.  He was only 300 cc neg at 4pm,
   so he was given 40 mg IV lasix for a goal neg of 1 L.   His prednisone
   was stopped given concern for aspergillosis as aspergillus grew in his
   sputum.  Levofloxacin was stopped as the team does not think he has
   PNA.  ID was consulted due to concern that the mass in his left
   maxillary sinus could be an invasive fungal infection and they
   recommended obtaining an induced sputum and a noncontrast chest CT to
   evaluate for evidence of PNA or aspergillosis.  They also wanted to
   send BCx, Fungal blood Cx, B-glucan, and Galactomman.  As they don't
   think aspergillosis is likely (it may have been a contaminant) they
   want to hold off on treatment for now.  ID recommended consulting ENT
   -  ENT saw the patient and felt that the mass on CT didn't have the
   typical appearance of an aspergillus fungal ball.  She looked in his
   nose and thought it looked like a soft tissue mass (which is worrisome
   for malignancy), but didn't biopsy it given the bleeding risk.  She did
   take a nasal specimen for culture.  She recommended outpatient ENT
   f/u.  Neuro is not convniced that the patient had a stroke - they think
   TIA vs possible old prior infarct which is showing through secondary to
   encephalopathy.  PT/OT were consulted.  His lantus was increased to 15
   units daily for better blood sugar control.
   This am the patient denies chest pain, SOB, or other complaints except
   for coughing.
   Allergies:
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-12-31**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-1-1**] 08:00 AM
   Furosemide (Lasix) - [**2191-1-1**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-2**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 62 (62 - 81) bpm
   BP: 116/53(67) {95/33(51) - 125/64(79)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 6 (1 - 8)mmHg
   Total In:
                                                                    878 mL
                                                                     69 mL
   PO:
                                                                    630 mL
   TF:
   IVF:
                                                                    248 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    400 mL
   Urine:
                                                                  2,510 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,632 mL
                                                                   -331 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Elderly man lying in bed in NAD
   Eyes / Conjunctiva: sclera anicteric R and L pupils reactive b/l,
   slightly asymmetric, EOMs intact.
   Head, Ears, Nose, Throat: Normocephalic, NC/AT.
   Cardiovascular: RRR, No MRG. JVP 8
   Respiratory / Chest:  Crackles at the bases with coarse breath sounds
   throughout.
   Abdominal: +BS, soft ND.
   Extremities: No c/c/e.  2+DP
   Neurologic:  A&O x3, CN II-[**Doctor First Name **] grossly intact, strength 5/5 in his upper
   and lower extremities throughout, sensation intact to light touch.
   Labs / Radiology
   177 K/uL
   10.5 g/dL
   143 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   29 mg/dL
   101 mEq/L
   140 mEq/L
   28.9 %
   9.7 K/uL
        [image002.jpg]
                            [**2190-12-30**]  03:12 PM
                            [**2190-12-30**]  04:34 PM
                            [**2190-12-30**]  08:51 PM
                            [**2190-12-31**]  12:44 AM
                            [**2190-12-31**]  04:02 AM
                            [**2190-12-31**]  04:16 AM
                            [**2190-12-31**]  02:10 PM
                            [**2190-12-31**]  05:24 PM
                            [**2191-1-1**]  05:01 AM
                            [**2191-1-1**]  06:05 PM
   WBC
   9.4
   9.7
   Hct
   27.3
   28.9
   Plt
   179
   177
   Cr
   1.1
   1.1
   1.0
   1.2
   TCO2
   28
   28
   28
   28
   30
   32
   Glucose
   128
   159
   136
   143
   Other labs: PT / PTT / INR:15.3/73.8/1.4, CK / CKMB /
   Troponin-T:644/71/2.02, ALT / AST:27/47, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:84/, Differential-Neuts:76.5 %, Lymph:18.4 %, Mono:4.7
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   76M with HTN, DM, HL, but no known CAD, presented to OSH w/ PNA and
   ARF, now transferred to [**Hospital1 5**] CCU w/ STEMI. S/p BMS x2 to mid-LAD 90%
   stenosis, now extubated w/ resolved leftsided hemiparesis.
   #. COPD exacerbation/CAP
 Pt. w/ wheezes and rhonchi on exam
   consistent w/ COPD exacerbation.  Now w/ stable oxygen requirement (on
   2L).
   - Will start spirivia daily; continue Xopenex standing Q6h and
   Ipratropium q6h.
   - Continue levofloxacin for 3 more days for CAP (pt. had received 4d
   already)
   # Aspergillus in the sputum
Patient found to have aspergillus in his
   sputum, pt. also w/ sinus disease w. dehissence of medial sinus wall.
   Given DM and recent steroid course at OSH, pt has been immunosuppressed
   recently.  Possibly invasive aspergillosis.  ID and ENT were consulted
   yesterday.  ENT did not feel that the mass on imaging was consistent
   with a fungus ball and ID thought the aspergillus in his sputum may
   have been contamination.
   -  Appreciate ENT and ID consults.  Will f/u recs.
   -  F/u BCx, fungal BCx, Sinus aspiration Smear/Cx, B-glucan, and
   galactomannan.
   -  Chest CT without contrast recommended by ID to evaluate his lungs
   for evidence of aspergillus
 patient will get today, will f/u results.
   -  Patient will have an induced sputum sent today.
   # Left maxillary mass
 Patient with left maxillary opacificiation and
   dehissene of the medical sinus wall.  Per ENT this is likely a soft
   tissue mass, concerning for malignancy, but unlikely to be infection.
   -  Appreciate ENT consult.
   -  Patient will need an outpatient workup and likely biopsy of the
   mass.
   # Left hemiparesis w/ facial droop
  The patient
s neuro findings are
   now resolved.  Neuro felt that this was not consistent with an acute
   stroke, but more likely a TIA or pervious neurologic injury manifesting
   itself as the patient recovers from his acute event.
   - Appreciate Neuro consult, will f/u recs
   #. CAD - Pt w/ STEMI, now s/p BMS x2 to mid-LAD 90% stenosis. Anatomy
   also w/ proximally occluded RCA w/ robust collaterals.  CKs peaked on
   [**12-29**] at 714, now 644.  Asymptomatic.  Held heparin gtt yesterday given
   concern for ICH.
   - Continue daily [**Last Name (LF) 119**], [**First Name3 (LF) 124**] decrease to 81mg and Plavix
   - Switch Captopril to lisinopril 10 mg daily.
   - Continue high-dose statin, switch Metoprolol to Toprol XL 50 mg
   daily.
   - Insulin as below for tight blood sugar control
   - DC heparin gtt as his INR is therapeutic.
   #  Heart function: No evidence of heart failure.  Elevated BPs o/n.
   Mildly overloaded on exam, crackles.  ECHO w/ LVEF > 55%, symmetric LVH
   suggestive of diastolic dysfunction, w/ PAH.
   - Will hold off additional diuresis.
   - Pt. on ACE and B-blocker as above.
   #. Acute renal failure
 Resolving. Creatinine on arrival to OSH was
   elevated to 1.5.  Improved to 1.1 now.
   - Continue to trend Cr and avoid nephrotoxins.
   #. Diabetes - On PO Metformin at home, was on insulin gtt at OSH ICU.
   - Holding home Metformin
   - Continue increased dosing of Lantus at 15 units with Reg. SSI
   coverage for BG < 150.
   - Monitor FS and consider further increase of Lantus t/m if elevated
   consistently above 150.
   #. Depression - Continue home Celexa.
   ICU Care
   Nutrition: Cardiac diabetic diet
   Glycemic Control:  Lantus and SSI as above
   Lines:
   20 Gauge - [**2191-1-1**] 11:00 AM
   Prophylaxis:
   DVT: systemically anticoagulated with coumadin
   Stress ulcer: PPI daily
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to the floor today